US06982348B2
7) (1RS,2SR)-2-amino-1-(3-(benzyloxy)phenyl)-3-(3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)-1-propanol
To a solution of (4RS,5SR)-5-[3-(benzyloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one (6.5 g, 13.7 mmol) in ethanol (70 ml) was added 8N aqueous sodium hydroxide solution (5.13 ml, 41 mmol), and the mixture was heated under reflux for 4 hrs. The reaction solution was concentrated, diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure to give the objective substance (6.26 g, 100%).

reactant | (4RS,5SR)-5-[3-(benzyloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | 13.7 mmol, 6.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C25H21F4NO4
reactant | sodium hydroxide | 41 mmol, 8N, 5.13 ml | [OH-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(3-(benzyloxy)phenyl)-3-(3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)-1-propanol | NC(C(O)C1=CC(=CC=C1)OCC1=CC=CC=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C24H23F4NO3
